US06627771B1
Preparation of 3-Azidomethyl-3-cyclopentyl-propionic acid ethyl ester—A solution of 3-bromomethyl-3-cyclopentyl-propionic acid ethyl ester (4.4 g, 28.5 mmol) and NaN3 (2.0 g, 31.4 mmol) in 25 mL of DMSO is warmed to 60° C. for 12 hours. The mixture is cooled to room temperature and diluted with 100 mL of H2O. Extraction with Et2O (3×50 mL) and drying over MgSO4 followed by evaporation of the Et2O gives 4.8 g (75% yield) of 3-azidomethyl-3-cyclopentyl-propionic acid ethyl ester as an oil. NMR (1H, 300 MHz, CDCl3) δ1.1 (2H, m); 1.2 (3H, t); 1.6 (4H, m); 1.8 (3H, m); 1.9 (1H, m); 2.4 (2H, dd); 3.4 (2H, dd); 4.1 (2H, q).

reactant | 3-bromomethyl-3-cyclopentyl-propionic acid ethyl ester | 28.5 mmol, 4.4 g | C(C)OC(CC(C1CCCC1)CBr)=O | C11H19BrO2
reactant | NaN3 | 31.4 mmol, 2.0 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | H2O | 100 mL | O | H2O
product | 3-azidomethyl-3-cyclopentyl-propionic acid ethyl ester | 4.8 g, 75% yield | C(C)OC(CC(C1CCCC1)CN=[N+]=[N-])=O | C11H19N3O2
